US06635657B1
A. 4-Aminoisophthalic Acid
Into 20 mL EtOH and 20 mL HOAc was dissolved 2 g (9.48 mmol) 4-nitroisophthalic acid, and the solution was subjected to hydrogenation at atmospheric conditions over 1 g of 5% Pd on carbon. After 16 h, mixture was filtered, and filtrate was evaporated. The residue crystallized from methylene chloride-hexane, giving 1.29 g (75%) crystalline desired intermediate.

reactant | EtOH | 20 mL | CCO | C2H6O
reactant | 4-nitroisophthalic acid | 9.48 mmol, 2 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H5NO6
catalyst | Pd on carbon | 1 g | [Pd] | Pd
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 4-Aminoisophthalic Acid | 1.29 g, 75% | NC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H7NO4
